US04808734
By the procedure of Example 13, cyclohexane carboxylic acid ethyl ester was fluorinated with perchlorylfluoride to yield 1-fluorocyclohexanecarboxylic acid ethyl ester.

reactant | cyclohexane carboxylic acid ethyl ester | C(C)OC(=O)C1CCCCC1 | C9H16O2
reactant | perchlorylfluoride | Cl(=O)(=O)(=O)F | ClFO3
product | 1-fluorocyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCCCC1)F | C9H15FO2
